US07307172B2
Preparation of 5,7-dihydroxy-6-isopropyl-[1,2,4]-triazolo-[1,5-α]-pyrimidine
A mixture of 14 g (0.17 mol) of 3-amino-1,2,4-triazole, 34.3 g (0.17 mol) of diethyl 2-isopropylmalonate and 50 ml of tributylamine were stirred at 180° C. for 6 h. The reaction mixture was then cooled to 70° C., an aqueous solution of sodium hydroxide (21 g/200 ml of water) was added and the mixture was stirred for 30 min. The organic phase was separated and the aqueous phase was extracted with diethyl ether. The aqueous phase was then acidified using conc. hydrochloric acid and the resulting precipitate was collected by filtration. Drying gave 27 g (0.14 mol) of the title compound.

reactant | 3-amino-1,2,4-triazole | 0.17 mol, 14 g | NC1=NNC=N1 | C2H4N4
reactant | diethyl 2-isopropylmalonate | 0.17 mol, 34.3 g | C(C)(C)C(C(=O)OCC)C(=O)OCC | C10H18O4
reactant | tributylamine | 50 ml | C(CCC)N(CCCC)CCCC | C12H27N
solvent | sodium hydroxide | 200 ml, 21 g | [OH-].[Na+]
product | 5,7-dihydroxy-6-isopropyl-[1,2,4]-triazolo-[1,5-α]-pyrimidine | 0.14 mol, 27 g | OC1=NC=2N(C(=C1C(C)C)O)N=CN2 | C8H10N4O2
